US03985737
By following the sulfonation and de-esterification procedures described in Example 4 p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate was reacted with 4-fluorobenzenesulfonyl chloride in DMAC in the presence of propylene oxide and the recovered sulfonation product, p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-(4-fluorobenzenesulfonyloxy)-3-cephem-4-carboxylate was hydrogenated in methanol-THF over prereduced 5 percent palladium on carbon catalyst to provide the product, 7-[2-(2-thienyl)acetamido]-3-(4-fluorobenzenesulfonyloxy)-3-cephem-4-carboxylic acid.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-hydroxy-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H17N3O7S2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-(4-fluorobenzenesulfonyloxy)-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C=C2)F)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C26H20FN3O9S3
solvent | DMAC | CC(=O)N(C)C | C4H9NO
solvent | methanol THF | CO.C1CCOC1
catalyst | palladium on carbon | [Pd] | Pd
product | 7-[2-(2-thienyl)acetamido]-3-(4-fluorobenzenesulfonyloxy)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C2=CC=C(C=C2)F)C(=O)O)C1=O | C19H15FN2O7S3
